US05574016
A mixture of ethyl 5-(4-amidinophenyl)-2,4-pentadienoate hydrochloride (20.00 g) and 10% Pd-C (5.00 g) in ethanol (500 ml) was stirred under H2 gas at room temperature for 3 hours. After filtration, the filtrate was evaporated in vacuo. The resulting precipitate was washed with diethyl ether to give ethyl 5-(4-amidinophenyl)pentanoate hydrochloride (19.42 g).

reactant | ethyl 5-(4-amidinophenyl)-2,4-pentadienoate hydrochloride | 20.00 g | Cl.C(N)(=N)C1=CC=C(C=C1)C=CC=CC(=O)OCC
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd-C | 5.00 g | [Pd] | Pd
product | ethyl 5-(4-amidinophenyl)pentanoate hydrochloride | 19.42 g | Cl.C(N)(=N)C1=CC=C(C=C1)CCCCC(=O)OCC | InChI=1S/C14H20N2O2.ClH/c1-2-18-13(17)6-4-3-5-11-7-9-12(10-8-11)14(15)16;/h7-10H,2-6H2,1H3,(H3,15,16);1H
